US06358973B1
2-(3-Methoxy-phenyl)-4-methyl-pentan-nitrile
By working in a way similar to that described in example 16 but using 3-methoxy-phenyl-acetonitrile (4.4 g, 30 mmoles), anhydrous DMF (30 ml), NaH (55-65%, 1.44 g, 36 mmoles) and isobutylbromide (4.97 g, 36 mmoles), 3.8 g of the title compound were obtained (yield: 62.3%).

reactant | 3-methoxy-phenyl-acetonitrile | 30 mmoles, 4.4 g | COC=1C=C(C=CC1)CC#N | C9H9NO
reactant | NaH | 36 mmoles, 1.44 g | [H-].[Na+]
reactant | isobutylbromide | 36 mmoles, 4.97 g | C(C(C)C)Br | C4H9Br
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2-(3-Methoxy-phenyl)-4-methyl-pentan-nitrile | 3.8 g, yield: 62.3% | COC=1C=C(C=CC1)C(C#N)CC(C)C | C13H17NO
